US05990263
d) 16-Hexadecanoyloxyhexadecanoyl chloride
16-Hexadecanoyloxyhexadecanoic acid (7.73 g, 15.13 mmol) prepared as in (c) above was dissolved in tetrahydrofuran (140 ml) and oxalyl chloride (4.80 g, 37.83 mmol) was added dropwise. The mixture was stirred at room temperature for 3 days and then the solvent and unreacted oxalyl chloride were evaporated under reduced pressure to give 8.0 g (100%) of the title compound.

reactant | 16-Hexadecanoyloxyhexadecanoic acid | 15.13 mmol, 7.73 g | C(CCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC(=O)O | C32H62O4
reactant | oxalyl chloride | 37.83 mmol, 4.80 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 16-Hexadecanoyloxyhexadecanoyl chloride | 8.0 g, 100% | C(CCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC(=O)Cl | C32H61ClO3
